US05665696
2-(6,6-Dimethylbicyclo[3.1.1]hept-2-yl)propenal (mixture of diastereomers)
In a similar manner to Example 49, 342 g of 6,6-dimethylbicyclo[3.1.1]hept-2-yl acetaldehyde at a purity of 97% (1.99 moles), 178 g of 37% formaldehyde (2.2 moles), 7.3 g of diethylamine (0.1 mole), and 0.8 g of BHT were refluxed for 1.5 hours. After the usual work-up, 370 g of crude propenal was distilled to afford 317 g of purified product (89% yield). BP 75° C./0.5 mmHg; 1H-NMR (300 MHz), δ 0.92 (3H, s), 1.23 (3H, s), 1.47-2.40 (8H, m), 3.1 (1H, t, J=8.91 Hz), 5.91 (1H, s), 6.20 (1H, s), 9.50 (1H, s); 13C-NMR (75 MHz), δ 20.06, 20.92, 23.88, 26.76, 28.03, 32.82, 40.08, 41.32, 44.34, 131.53, 155.46, 194.97; IR (Neat), 2960, 2700, 1690, 940 cm-1 ; MS (m/e), 177 (M+ -1), 163, 145, 135, 121, 107, 91, 79, 41 (Base);

reactant | 6,6-dimethylbicyclo[3.1.1]hept-2-yl acetaldehyde | 342 g | CC1(C2CCC(C1C2)CC=O)C | C11H18O
reactant | formaldehyde | 2.2 moles, 178 g | C=O | CH2O
catalyst | diethylamine | 0.1 mole, 7.3 g | C(C)NCC | C4H11N
product | 2-(6,6-Dimethylbicyclo[3.1.1]hept-2-yl)propenal | 317 g, 89% yield | CC1(C2CCC(C1C2)C(C=O)=C)C | C12H18O
